US06949538B2
((R)-1-Isopropyl-2-oxo-but-3-enyl)-carbamic acid tert-butyl ester
Tetrahydrofuran (THF, 100 mL) and a 1.0M solution of vinyl magnesium bromide in THF (360 mL, 360 mmol, 3.1 equiv) was cooled to −78° C. while stirring under a nitrogen atmosphere. The mixture was treated dropwise with a solution of [(R)-(methoxy-methyl-carbamoyl)-methyl-propyl]-carbamic acid tert-butyl ester (30.3 g, 116 mmol, 1 equiv) in THF (50 mL) over 30 min. After the resultant dark yellow mixture was stirred for 30 min at −78° C., the cooling bath was removed and the reaction mixture was warmed slowly to room temperature overnight (15 h). The reaction mixture was poured slowly into an ice-chilled solution of 1N aqueous hydrochloric acid (700 mL) and then warmed to room temperature. The organics were extracted with (3×600 mL) ethyl acetate, dried over sodium sulfate, filtered, and concentrated in vacuo. Purification by flash column chromatography (5-10% ethyl acetate/hexanes) provided the product as a white solid (16.8 g, 64%). ESMS [M+H]+: 228.4.

reactant | vinyl magnesium bromide | C(=C)[Mg]Br
reactant | [(R)-(methoxy-methyl-carbamoyl)-methyl-propyl]-carbamic acid tert-butyl ester | 116 mmol, 30.3 g, 1 equiv | C(C)(C)(C)OC(N[C@@](CC)(C)C(N(C)OC)=O)=O | C12H24N2O4
reactant | THF | 50 mL | O1CCCC1 | C4H8O
reactant | THF | 360 mmol, 360 mL, 3.1 equiv | O1CCCC1 | C4H8O
reactant | Tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ((R)-1-Isopropyl-2-oxo-but-3-enyl)-carbamic acid tert-butyl ester | 16.8 g, 64% | C(C)(C)(C)OC(N[C@@H](C(C=C)=O)C(C)C)=O | C12H21NO3
